US08685991B2
Part C. Preparation of 1-(3-tert-Butyl-5-iodo-4-methoxyphenyl)pyrimidine-2,4(1H,3H)-dione
Uracil (33.3 g, 297 mmol, 1.2 equiv.), K3PO4 (106 g, 500 mmol, 2.1 equiv.), CuI (4.6 g, 24.2 mmol, 0.1 equiv.), and N-(2-cyanophenyl)picolinamide (6.4 g, 28.7 mmol, 0.12 equiv.) were charged to a flask and inerted with argon. The 1-tert-butyl-3,5-diiodo-2-methoxybenzene was solvent switched into MeCN, dissolved in 1 L DMSO and sparged with argon and added to the solids. The reaction was heated to 60° C. for 16 h. After cooling, the reaction was diluted with 2 L EtOAc and washed with 2.6 L water (back extracted with 3×1 L EtOAc). The combined organic layers were washed with 2×1 L of 0.25M (CuOAc)2 then 2×830 mL 15% NH4Cl then 800 mL brine. The organic layer was then concentrated and chased with 1 L heptane, then triturated with refluxing 85:15 (v/v) heptane:iPrOAc for 4 h. After cooling, the product was collected by filtration and washed with an additional 330 mL of 85:15 v/v heptanes:EtOAc to yield after drying 66.9 g (70% yield) of the product as a white solid.

reactant | Uracil | 297 mmol, 33.3 g, 1.2 equiv. | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | K3PO4 | 500 mmol, 106 g, 2.1 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N-(2-cyanophenyl)picolinamide | 28.7 mmol, 6.4 g, 0.12 equiv. | C(#N)C1=C(C=CC=C1)NC(C1=NC=CC=C1)=O | C13H9N3O
reactant | 1-tert-butyl-3,5-diiodo-2-methoxybenzene | C(C)(C)(C)C1=C(C(=CC(=C1)I)I)OC | C11H14I2O
solvent | DMSO | 1 L | CS(=O)C | C2H6OS
catalyst | CuI | 24.2 mmol, 4.6 g, 0.1 equiv. | [Cu]I
solvent | MeCN | CC#N | C2H3N
product | 1-(3-tert-Butyl-5-iodo-4-methoxyphenyl)pyrimidine-2,4(1H,3H)-dione | 66.9 g, 70% yield | C(C)(C)(C)C=1C=C(C=C(C1OC)I)N1C(NC(C=C1)=O)=O | C15H17IN2O3
